US06011050
2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-acetamidoisoindoline-1,3-dione
2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-acedtamidoisoindoline-1,3-dione was prepared by the procedure of Example 8 from 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine (1.0 g, 3.7 mmol) and 3-acetamidophthalic anhydride (751 mg, 3.66 mmol) in acetic acid (20 mL). The product was obtained as a yellow solid (1.0 g, 59% yield): mp, 144.0° C.; 1H NMR (CDCl3) δ 1.47 (t, J=7.0 Hz, 3H, CH3), 2.26 (s, 3H, CH3), 2.88 (s, 3H, CH3), 3.75 (dd, J=4.4, 14.3 Hz, 4.4, 14.3 Hz, 1H, CHH), 5.87 (dd, J=4.3, 10.5 Hz, 1H, NCH), 6.82-6.86 (m, 1H, Ar), 7.09-7.11 (m, 2H, Ar), 9.49 (br s, 1H, NH), 13C NMR (CDCl3) δ 14.61, 24.85, 41.54, 48.44, 54.34, 55.85, 64.43, 111.37, 112.34, 115.04, 118.11, 120.21, 124.85, 129.17, 130.96, 136.01, 137.52, 148.54, 149.65, 167.38, 169.09, 169.40; Anal Calcd for C22H24NO7S: C, 57.38; H, 5.25; N, 6.08. Found: C, 57.31; H, 5.34; N, 5.83.

reactant | 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 3.7 mmol, 1.0 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
reactant | 3-acetamidophthalic anhydride | 3.66 mmol, 751 mg | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-acetamidoisoindoline-1,3-dione | 1.0 g, 59% yield | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C22H24N2O7S
